US05120855
The method of claim 41, wherein the optical resolution is conducted by reacting DL-hydroxyphenylglycine with HCl to form DL-hydroxyphenylglycine·HCl, reacting DL-hydroxyphenylglycine·HCl with a (+)-phenylethanesulfate to form DL-hydroxyphenylglycine (+)-phenylethanesulfate, then heating and crystallizing to produce D-hydroxyphenylglycine (+)-phenylethanesulfate and reacting with methanol and an aqueous sodium hydroxide solution to give D-hydroxyphenylglycine.

reactant | hydroxyphenylglycine | ON(CC(=O)O)C1=CC=CC=C1 | C8H9NO3
reactant | HCl | Cl | ClH
product | hydroxyphenylglycine·HCl | ON(CC(=O)O)C1=CC=CC=C1.Cl | InChI=1S/C8H9NO3.ClH/c10-8(11)6-9(12)7-4-2-1-3-5-7;/h1-5,12H,6H2,(H,10,11);1H
